US07390835B2
3-(1(S)-(4-Chlorobenzyl)-2(S)-((2-methyl-1-phenyl-2-(1H-pyrazol-1-yl)propyl)amino)propyl)benzonitrile
To a solution of 80 mg (0.28 mmol) of 3-(4-chlorophenyl)-2(S)(3-cyanophenyl)-1(S)-methyl-propylamine in 1.5 mL of toluene, 60 mg of 1-phenyl-2(1H-pyrazol-1-yl)ethanone and 5 mg of TsOH were added. Powdered 4A molecular sieves (˜300 mg) were added to the reaction, which was heated to reflux for 5 hr. The mixture was cooled, filtered, and the solid was washed with EtOAc. The filtrate was concentrated and the residue was diluted with 1.5 mL of THF. The solution was cooled in −78° C. bath and 1.4 mL of 1 M LiN(TMS)2 was added. After 5 min 0.1 mL of MeI was added and the reaction was stirred overnight while it warmed to room temperature. The solution was quenched with saturated NH4Cl and extracted with EtOAc. The organic layer was washed with brine, dried and concentrated. The residue was predominantly monomethyl imine. It was dissolved in 1.5 mL of THF cooled in −78° C. bath and treated with 1.5 mL of LiN(TMS)2 and 0.12 mL of MeI. After 10 min, the cold bath was removed, and the mixture was stirred for 5 hr. The reaction was quenched with saturated NH4Cl and extracted with EtOAc. The organic layer was washed with brine, dried, and concentrated. The residue was dissolved in 1.5 mL of THF, 0.1 mL of HOAc, and 32 mg (0.5 mmol) of NaCNBH3 was added. After stirring overnight, the solution was quenched with saturated NaHCO3 and extracted with ETOAc. The organic layer was washed with brine, dried and concentrated. The residue was purified on a prep TLC plate using 50% EtOAc-hexane to isolate the title compound as a mixture of diastereomers. LC-MS: m/e=483 (M+1), 485 (M+3) (3.36 min). Additional two bands containing diastereomers of 3-(1(S)-(4-chlorobenzyl)-2(S)-((1-phenyl-2-(1H-pyrazol-1-yl)propyl)amino)propyl)benzonitrile were also isolated. LC-MS: m/e=469 (M+1), 471 (M+3) (3.24 min) and LC-MS: m/e=469 (M+1), 471 (M+3) (3.94 min).

reactant | 3-(4-chlorophenyl)-2(S)(3-cyanophenyl)-1(S)-methyl-propylamine | 0.28 mmol, 80 mg | ClC1=CC=C(C=C1)C[C@H]([C@H](C)N)C1=CC(=CC=C1)C#N | C17H17ClN2
reactant | 1-phenyl-2(1H-pyrazol-1-yl)ethanone | 60 mg | C1(=CC=CC=C1)C(CN1N=CC=C1)=O | C11H10N2O
reactant | TsOH | 5 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaCNBH3 | 0.5 mmol, 32 mg | [BH3-]C#N.[Na+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | HOAc | 0.1 mL | CC(=O)O | C2H4O2
product | 3-(1(S)-(4-Chlorobenzyl)-2(S)-((2-methyl-1-phenyl-2-(1H-pyrazol-1-yl)propyl)amino)propyl)benzonitrile | ClC1=CC=C(C[C@H]([C@H](C)NC(C(C)(N2N=CC=C2)C)C2=CC=CC=C2)C=2C=C(C#N)C=CC2)C=C1 | C30H31ClN4
